US04451476
The intermediate 6-(4-isopropoxyphenoxy)hexyl bromide was prepared from the potassium salt of 4-isopropoxyphenol and 1,6-dibromohexane.

reactant | potassium | [K] | K
reactant | 4-isopropoxyphenol | C(C)(C)OC1=CC=C(C=C1)O | C9H12O2
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
product | 6-(4-isopropoxyphenoxy)hexyl bromide | C(C)(C)OC1=CC=C(OCCCCCCBr)C=C1 | C15H23BrO2
